US07129232B2
To a solution of 7-amino-2,3-dihydro-1H-imidazo[1,2-b]pyrazole sulfuric acid salt (4.4 g), 4-(dimethylamino)pyridine (244 mg) and triethylamine (8.10 g) in chloroform (45 ml) was added 1,3-bis(tert-butoxycarbonyl)-2-(trifluoromethanesulfonyl)guanidine (10.18 g). The mixture was stirred at room temperature for 2 hours. The reaction mixture was washed successively with 10% aqueous citric acid solution, brine and saturated aqueous sodium hydrogen carbonate solution. The organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo. The residue was triturated with diisopropyl ether to give 7-[2,3-bis(tert-butoxycarbonyl)guanidino]-2,3-dihydro-1H-imidazo[1,2-b]pyrazole (4.6 g) as a solid.

reactant | 7-amino-2,3-dihydro-1H-imidazo[1,2-b]pyrazole sulfuric acid salt | 4.4 g | S(O)(O)(=O)=O.NC1=C2N(N=C1)CCN2
reactant | triethylamine | 8.10 g | C(C)N(CC)CC | C6H15N
reactant | 1,3-bis(tert-butoxycarbonyl)-2-(trifluoromethanesulfonyl)guanidine | 10.18 g | C(C)(C)(C)OC(=O)NC(=NS(=O)(=O)C(F)(F)F)NC(=O)OC(C)(C)C | C12H20F3N3O6S
catalyst | 4-(dimethylamino)pyridine | 244 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | chloroform | 45 ml | C(Cl)(Cl)Cl | CHCl3
product | 7-[2,3-bis(tert-butoxycarbonyl)guanidino]-2,3-dihydro-1H-imidazo[1,2-b]pyrazole | 4.6 g | C(C)(C)(C)OC(=O)N=C(NC1=C2N(N=C1)CCN2)NC(=O)OC(C)(C)C | C16H26N6O4
